US07932277B2
(3R,5S)-1-(tert-butoxycarbonyl)-5-((1R,2R)-1-(cyclopropylsulfonylcarbamoyl)-2-ethylcyclopropylcarbamoyl)pyrrolidin-3-yl 4-chloroisoindoline-2-carboxylate (1.35 g, 2.16 mmol) in DCM (5 mL) was added 4 N HCl in dioxane (4.32 ml, 17.3 mmol). The reaction mixture was stirred at rt for 2 hours. The solvent was removed and the residue was suspended in ethyl ether (30 mL) and stirred for 30 min. The solid was collected by filtration to give (3R,5S)-5-((1R,2R)-1-(cyclopropylsulfonylcarbamoyl)-2-ethylcyclopropylcarbamoyl)pyrrolidin-3-yl 4-chloroisoindoline-2-carboxylate dihydrochloride (1.10 g, 91%) as white solid. LCMS (APCI+): 525.2.

reactant | (3R,5S)-1-(tert-butoxycarbonyl)-5-((1R,2R)-1-(cyclopropylsulfonylcarbamoyl)-2-ethylcyclopropylcarbamoyl)pyrrolidin-3-yl 4-chloroisoindoline-2-carboxylate | 2.16 mmol, 1.35 g | ClC1=C2CN(CC2=CC=C1)C(=O)O[C@H]1CN([C@@H](C1)C(N[C@]1([C@@H](C1)CC)C(NS(=O)(=O)C1CC1)=O)=O)C(=O)OC(C)(C)C | C28H37ClN4O8S
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 17.3 mmol, 4.32 ml | O1CCOCC1 | C4H8O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (3R,5S)-5-((1R,2R)-1-(cyclopropylsulfonylcarbamoyl)-2-ethylcyclopropylcarbamoyl)pyrrolidin-3-yl 4-chloroisoindoline-2-carboxylate dihydrochloride | 1.10 g, 91% | Cl.Cl.ClC1=C2CN(CC2=CC=C1)C(=O)O[C@H]1CN[C@@H](C1)C(N[C@]1([C@@H](C1)CC)C(NS(=O)(=O)C1CC1)=O)=O | InChI=1S/C23H29ClN4O6S.2ClH/c1-2-14-9-23(14,21(30)27-35(32,33)16-6-7-16)26-20(29)19-8-15(10-25-19)34-22(31)28-11-13-4-3-5-18(24)17(13)12-28;;/h3-5,14-16,19,25H,2,6-12H2,1H3,(H,26,29)(H,27,30);2*1H/t14-,15-,19+,23-;;/m1../s1
